### PR TITLE
More dagger category theory

### PR DESCRIPTION
**Pull request by Taneb**

### CODE REVIEW

File: src/Categories/Category/Dagger/Construction/DaggerFunctors.agda [hunk 1]
```diff
@@ -0,0 +1,57 @@
...
+
+private
+  variable
+    o ℓ e o′ ℓ′ e′ : Level
+
+DaggerFunctors : (C : DaggerCategory o ℓ e) (D : DaggerCategory o′ ℓ′ e′)
+               → DaggerCategory (o ⊔ ℓ ⊔ e ⊔ o′ ⊔ ℓ′ ⊔ e′) (o ⊔ ℓ ⊔ ℓ′ ⊔ e′) (o ⊔ e′)
+DaggerFunctors C D = record
+  { C = cat.DaggerFunctors C D
+  ; hasDagger = record
```
Comment (JacquesCarette) [inline src/Categories/Category/Dagger/Construction/DaggerFunctors.agda:21]: this would be better as part of the local `where` block, where you can also use a sub-local block (instead of `let`) and give names to the proofs instead of inlining them.

File: src/Categories/Category/Dagger/Construction/DaggerFunctors.agda [hunk 2]
```diff
@@ -0,0 +1,57 @@
...
+      ; commute = λ {X Y} f → begin
+        α.η Y † ∘ G.₁ f         ≈˘⟨ †-involutive _ ⟩
+        (α.η Y † ∘ G.₁ f) † †   ≈⟨ †-resp-≈ †-homomorphism ⟩
+        (G.₁ f † ∘ α.η Y † †) † ≈⟨ †-resp-≈ (∘-resp-≈ (G.F-resp-†) (†-involutive _)) ⟩
+        (G.₁ (f ‡) ∘ α.η Y) †   ≈⟨ †-resp-≈ (α.sym-commute (f ‡)) ⟩
+        (α.η X ∘ F.₁ (f ‡)) †   ≈˘⟨ †-resp-≈ (∘-resp-≈ (†-involutive _) (F.F-resp-†)) ⟩
+        (α.η X † † ∘ F.₁ f †) † ≈˘⟨ †-resp-≈ †-homomorphism ⟩
+        (F.₁ f ∘ α.η X †) † †   ≈⟨ †-involutive _ ⟩
+        F.₁ f ∘ α.η X †         ∎
+      ; sym-commute = λ {X Y} f → begin
```
Comment (JacquesCarette) [inline src/Categories/Category/Dagger/Construction/DaggerFunctors.agda:38]: Use the helper function that gives this 'for free'.

File: src/Categories/Category/Instance/DagCats.agda [hunk 3]
```diff
@@ -0,0 +1,31 @@
+{-# OPTIONS --safe --without-K #-}
+
+module Categories.Category.Instance.DagCats where
+
+open import Categories.Category.Core
```
Comment (JacquesCarette) [inline src/Categories/Category/Instance/DagCats.agda:5]: please qualify the imports

File: src/Categories/Functor/Dagger.agda [hunk 4]
```diff
@@ -0,0 +1,41 @@
...
+  private
+    module C = DaggerCategory C
+    module D = DaggerCategory D
+  field
+    functor : Functor C.C D.C
+
+  open Functor functor public
+
+  field
+--    F-resp-† : ∀ {X Y} {f : X C.⇒ Y} → F₁ (f C.†) D.≈ (F₁ f D.†)
```
Comment (JacquesCarette) [inline src/Categories/Functor/Dagger.agda:24]: remove comment if it's not needed

File: src/Categories/Functor/Dagger.agda [hunk 5]
```diff
@@ -0,0 +1,41 @@
+{-# OPTIONS --safe --without-K #-}
+
+module Categories.Functor.Dagger where
+
+open import Categories.Category.Dagger
```
Comment (JacquesCarette) [inline src/Categories/Functor/Dagger.agda:5]: qualify inputs (i.e. `using`)

File: src/Categories/Category/Instance/DagCats.agda [hunk 6]
```diff
@@ -0,0 +1,31 @@
...
+open import Level
+
+DagCats : ∀ o ℓ e → Category (suc (o ⊔ ℓ ⊔ e)) (o ⊔ ℓ ⊔ e) (o ⊔ ℓ ⊔ e)
+DagCats o ℓ e = record
+  { Obj = DaggerCategory o ℓ e
+  ; _⇒_ = DaggerFunctor
+  ; _≈_ = NaturalIsomorphism on DaggerFunctor.functor
+  ; id = id
+  ; _∘_ = _∘F†_
+  ; assoc = λ {_ _ _ _ F G H} → associator (DaggerFunctor.functor F) (DaggerFunctor.functor G) (DaggerFunctor.functor H)
```
Comment (JacquesCarette) [inline src/Categories/Category/Instance/DagCats.agda:20]: maybe put a `where open DaggerFunctor` at the end of the `record` so this can be less verbose?

File: src/Categories/Category/Instance/DagCats.agda [hunk 7]
```diff
@@ -0,0 +1,31 @@
...
+  ; sym-assoc = λ {_ _ _ _ F G H} → sym (associator (DaggerFunctor.functor F) (DaggerFunctor.functor G) (DaggerFunctor.functor H))
```
Comment (JacquesCarette) [inline src/Categories/Category/Instance/DagCats.agda:21]: Hmm, maybe we should define `sym-associator` in `NaturalIsomorphism` ?

File: src/Categories/Category/Instance/DagCats.agda [hunk 8]
```diff
@@ -0,0 +1,31 @@
...
+open import Categories.NaturalTransformation.NaturalIsomorphism
+
+open import Function.Base using (_on_)
+open import Level
+
+DagCats : ∀ o ℓ e → Category (suc (o ⊔ ℓ ⊔ e)) (o ⊔ ℓ ⊔ e) (o ⊔ ℓ ⊔ e)
+DagCats o ℓ e = record
+  { Obj = DaggerCategory o ℓ e
+  ; _⇒_ = DaggerFunctor
+  ; _≈_ = NaturalIsomorphism on DaggerFunctor.functor
```
Comment (JacquesCarette) [inline src/Categories/Category/Instance/DagCats.agda:17]: Nice!

File: src/Categories/Category/Dagger/Construction/DaggerFunctors.agda [hunk 9]
```diff
@@ -0,0 +1,57 @@
...
+    { _† = λ {F} {G} α →
+      let
+         module F = DaggerFunctor F
+         module G = DaggerFunctor G
+         module α = NaturalTransformation α
+      in record
+      { η = λ X → α.η X †
+      ; commute = λ {X Y} f → begin
+        α.η Y † ∘ G.₁ f         ≈˘⟨ †-involutive _ ⟩
+        (α.η Y † ∘ G.₁ f) † †   ≈⟨ †-resp-≈ †-homomorphism ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Dagger/Construction/DaggerFunctors.agda:31]: feels to me like you ought to pull out lines 31-35 as an 'inner lemma' to factor out the `†-resp-≈` ?

File: src/Categories/Category/Dagger/Construction/DaggerFunctors.agda [hunk 10]
```diff
@@ -0,0 +1,57 @@
+{-# OPTIONS --safe --without-K #-}
+
+module Categories.Category.Dagger.Construction.DaggerFunctors where
+
+open import Categories.Category.Dagger
```
Comment (JacquesCarette) [inline src/Categories/Category/Dagger/Construction/DaggerFunctors.agda:5]: please add `using`

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Looks really good. All the comments are quite minor.

File: src/Categories/Category/Dagger/Construction/DaggerFunctors.agda (hunk 2 above)
Comment (Taneb) [reply src/Categories/Category/Dagger/Construction/DaggerFunctors.agda:38]: I deliberately didn't use `ntHelper` here, because I'm using `α.sym-commute` to define `commute`, and `α.commute` to define `sym-commute`. If `α` is implemented with specific implementations for each for some reason I don't want to lose that.

File: src/Categories/Category/Instance/DagCats.agda (hunk 7 above)
Comment (Taneb) [reply src/Categories/Category/Instance/DagCats.agda]: This already exists! I didn't realize because I was imitating `Cats`. I'll update both

File: src/Categories/Category/Dagger/Construction/DaggerFunctors.agda (hunk 1 above)
Comment (Taneb) [reply src/Categories/Category/Dagger/Construction/DaggerFunctors.agda:21]: I've moved the definition of `_†` to a where clause, which I think is the biggest benefit here. I think I'm now happy as this is; I don't think there's much benefit to giving names to the proofs for `commute` and `sym-commute` here.

**Review by JacquesCarette — APPROVED** [review]
